US05990311
110 ml of n-butanol, 240 ml of triethylamine and 236 g(1.60 mmole) of 1-methyl-1,2,3,4-tetrahydroisoquinoline were added to 600 ml of ethylene glycol. 400 g(1.59 mmole) of 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine was added thereto and then reacted at 140° C. for 48 hours to prepare 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine. This product was treated according to the procedure detailed in Example 14 to obtain 485 g of purified 5,6-dimethyl -2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride.

reactant | n-butanol | 110 ml | C(CCC)O | C4H10O
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 1.60 mmole, 236 g | CC1NCCC2=CC=CC=C12 | C10H13N
reactant | 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine | 1.59 mmole, 400 g | ClC1=NC(=NC(=C1C)C)NC1=CC=C(C=C1)F | C12H11ClFN3
reactant | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | C22H23FN4
solvent | ethylene glycol | 600 ml | C(CO)O | C2H6O2
solvent | triethylamine | 240 ml | C(C)N(CC)CC | C6H15N
product | 5,6-dimethyl -2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 485 g, Yield: 76.5% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(25-19-10-8-18(23)9-11-19)26-21(14)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
